US08871760B2
To a stirring suspension of (2-bromo-4,5-dimethoxy-phenyl)-(5-phenyl-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)-amine (0.2 g, 3.7 mmol) in a mixture of THF (20 mL) and TFA (1 mL) at 0° C. was added sodium borohydride (20 mg, 4.0 mmol). The reaction mixture was stirred 15 minutes at room temperature, thane quenched by addition of 10% aqueous HCl. The resulting mixture was heated to reflux for 10 minutes, then cooled and made basic by addition of 1M aqueous NaOH. The mixture was extracted with EtOAc, and the combined organic layers were dried (MgSO4), filtered and concentrated under reduced pressure to give 0.18 g of (2-bromo-4,5-dimethoxy-phenyl)-(5-phenyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)-amine, MS (M+H)=431.

reactant | (2-bromo-4,5-dimethoxy-phenyl)-(5-phenyl-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)-amine | 3.7 mmol, 0.2 g | BrC1=C(C=C(C(=C1)OC)OC)NC1=NN=C2N1C(=CN=C2)C2=CC=CC=C2 | C19H16BrN5O2
reactant | sodium borohydride | 4.0 mmol, 20 mg | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2-bromo-4,5-dimethoxy-phenyl)-(5-phenyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)-amine | 0.18 g | BrC1=C(C=C(C(=C1)OC)OC)NC1=NN=C2N1C(CNC2)C2=CC=CC=C2 | C19H20BrN5O2
